US07560558B2
(4,5-Dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanone (810 mg), methanol (7 ml), and a 28% aqueous ammonia solution (7 ml) were placed in a sealed tube, and the mixture was stirred at 160° C. overnight. The reaction solution was cooled to room temperature, the solvent was then removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give 5,6,6′-trimethyl-[2,2′]bipyridin-3-ol (753 mg, yield 93%).

reactant | (4,5-Dimethylfuran-2-yl)-(6-methyl-pyridin-2-yl)-methanone | 810 mg | CC=1C=C(OC1C)C(=O)C1=NC(=CC=C1)C | C13H13NO2
reactant | ammonia | 7 ml | N | H3N
solvent | methanol | 7 ml | CO | CH4O
product | 5,6,6′-trimethyl-[2,2′]bipyridin-3-ol | 753 mg, yield 93% | CC=1C=C(C(=NC1C)C1=NC(=CC=C1)C)O | C13H14N2O
